US04027023
A solution of ethyl 6-(benzyloxycarbonylamino)-1,4-dihydrocinnolin-3-yl carboxylate in ethyl acetate (obtained as described below) was heated to reflux temperature and manganese dioxide (20 g.) was added. The mixture was heated under reflux for 30 minutes, filtered, and the filtrate evaporated in vacuo to approximately 25 ml. Petroleum ether (b.p. 60°-80° C.; 75 ml.) was added and the mixture filtered to give, as solid residue, ethyl 6-(benzyloxycarbonylamino)cinnolin-3-yl carboxylate, m.p. 205° C.

reactant | ethyl 6-(benzyloxycarbonylamino)-1,4-dihydrocinnolin-3-yl carboxylate | C(C1=CC=CC=C1)OC(=O)NC=1C=C2CC(=NNC2=CC1)C(=O)OCC | C19H19N3O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | ethyl 6-(benzyloxycarbonylamino)cinnolin-3-yl carboxylate | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C19H17N3O4
